US06596772B1
To a solution of methyl 3,5-dihydroxyphenylacetate (50 mg, 0.274 mmol) in THF at rt was added NaH (24 mg, 60% dispersion in mineral oil), followed by 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene (159 mg, 2 equiv.). The mixture was stirred at rt for 5 hr. The reaction was acidified with 2N HCl, extracted into EtOAc, washed with water, brine, dried and concentrated. The residue was column chromatographed (EtOAc: Hex) to give [3,5-bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-phenyl]-acetic acid methyl ester. 1HNMR (360 MHz, DMSO-d6) δ 8.77 (d, J=2.3 Hz, 2H), 8.33 (dd, J=2.3 & 8.9 Hz, 2H), 7.46 (d, J=8.9 Hz, 2H), 7.40 (t, J=2.4 Hz, 1H), 7.30 (d, J=2.4 Hz, 2H), 3.89 (s, 2H, CH2), 3.63 (s, 3H, OCH3). MS-EI m/z 688 [M+].

reactant | methyl 3,5-dihydroxyphenylacetate | 0.274 mmol, 50 mg | OC=1C=C(C=C(C1)O)CC(=O)OC | C9H10O4
reactant | NaH | 24 mg | [H-].[Na+]
reactant | 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene | 159 mg, 2 equiv. | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)Cl | C7H3ClF3NO4S
reactant | HCl | 2N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | [3,5-bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])=O | C23H14F6N2O12S2
